US05037990
a) Methyl 5-oxo-5-[4-(2-acetaminoethyl)-phenyl]-pentanoate (cf. C.A., 54, 22474e)
To a solution of 26.9 g. (0.165 mol) acetylphenethylamine (preparation see J. Am. Pharm. Assoc., 47, 353/1958) in 300 ml. methylene chloride is added dropwise first 30.0 g. (0.182 mol) glutaric acid methyl ester chloride and then 66.1 g. (0.495 mol) aluminium chloride are added portionwise thereto at 0° to 5° C. The reaction mixture is further stirred for 1 hour at 0° C., then allowed to warm up to ambient temperature and after 4 hours the reaction mixture is poured on to ice/hydrochloric acid. The organic phase is separated off, washed neutral with water and dried over anhydrous sodium sulphate. After stripping off the solvent, there are obtained 34 g. (71% of theory) of colourless crystals; m.p. 107°-108° C., after recrystallisation from ethyl acetate.

reactant | acetylphenethylamine | 0.165 mol | C(C)(=O)NCCC1=CC=CC=C1 | C10H13NO
reactant | glutaric acid methyl ester chloride | 0.182 mol | [Cl-].COC(CCCC(=O)O)=O
reactant | aluminium chloride | 0.495 mol | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 5-oxo-5-[4-(2-acetaminoethyl)-phenyl]-pentanoate | O=C(CCCC(=O)OC)C1=CC=C(C=C1)CCNC(=O)C | C16H21NO4
